US06822097B1
Step (b) Preparation of 2-[2-(6-methyl-3-pyridyl)-1,3-thiazol-4-yl]acetic acid.
This material was prepared according to the procedure described for Example 24(b) using methyl 2-[2-(6-methyl-3-pyridyl)-1,3-thiazol-4-yl]acetate (Step a, 0.5 g, 2.0 mmol) and LiOH (2 N, 5.0 mL). The product was filtered and washed successively with CH2Cl2, EtOAc, and hexanes to afford the title compound as a white solid. MS m/z: 235 (M+1). Calc'd for C11H10N2O2S: 234.05.

reactant | methyl 2-[2-(6-methyl-3-pyridyl)-1,3-thiazol-4-yl]acetate | CC1=CC=C(C=N1)C=1SC=C(N1)CC(=O)OC | C12H12N2O2S
reactant | LiOH | 2 N, 5.0 mL | [Li+].[OH-]
product | 2-[2-(6-methyl-3-pyridyl)-1,3-thiazol-4-yl]acetic acid | CC1=CC=C(C=N1)C=1SC=C(N1)CC(=O)O | C11H10N2O2S
